.subckt addersubtractor M A3 A2 A1 A0 B3 B2 B1 B0 S3 S2 S1 S0 carry vdd gnd

   X39 B0 M E0 vdd gnd XOR
   X40 B1 M E1 vdd gnd XOR
   X41 B2 M E2 vdd gnd XOR
   X42 B3 M E3 vdd gnd XOR
   X43 A0 E0 M S0 C1 vdd gnd fulladder
   X44 A1 E1 C1 S1 C2 vdd gnd fulladder
   X45 A2 E2 C2 S2 C3 vdd gnd fulladder
   X46 A3 E3 C3 S3 carry vdd gnd fulladder

.ends addersubtractor