.subckt twotofourdecoder S0 S1 D0 D1 D2 D3 vdd gnd
   X18 S0 S0_comp vdd gnd NOT
   X19 S1 S1_comp vdd gnd NOT
   X20 S0_comp S1_comp D0 vdd gnd AND
   X21 S0 S1_comp D1 vdd gnd AND
   X22 S0_comp S1 D2 vdd gnd AND
   X23 S0 S1 D3 vdd gnd AND

.ends twotofourdecoder